US06171756B2
N-[1-(2-Nitrophenyl)-1-Ethoxycarbonyl]-N-Methyl-N-Phenylamine Ib
5-Hydroxy-2-nitrobenzylalcohol (0.40 g; 2.33 mmol) was placed in a round bottom flask along with dry pyridine (1 ml), dry toluene (10 ml) and 1,6-diisocyanatohexane (0.39 g; 2.33 mmol). The mixture was left to stir with gentle heating for 7 days, at which point the mixture was removed from the heat and allowed to cool. A whitish precipitate was present in the reaction mixture which was filtered under vacuum and washed with toluene. The solid was dried under vacuum for approximately 15 mins before being washed with dichloromethane and filtered, further washes with water and dichloromethane were carried out, and then the solid was left to filter dry. A brown waxy solid was obtained which was coated in cream powder with a yield of 0.47 g.

reactant | 5-Hydroxy-2-nitrobenzylalcohol | 2.33 mmol, 0.40 g | OC=1C=CC(=C(CO)C1)[N+](=O)[O-] | C7H7NO4
reactant | pyridine | 1 ml | N1=CC=CC=C1 | C5H5N
reactant | 1,6-diisocyanatohexane | 2.33 mmol, 0.39 g | N(=C=O)CCCCCCN=C=O | C8H12N2O2
reactant | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | N-[1-(2-Nitrophenyl)-1-Ethoxycarbonyl]-N-Methyl-N-Phenylamine | [N+](=O)([O-])C1=C(C=CC=C1)C(C)OC(=O)N(C1=CC=CC=C1)C | C16H16N2O4
